US05112988
A solution of (RS)-6-benzylaminomethyl-7,7-diphenyl-1,4-dioxaspiro[4.5]decane (0.41 g) in ethanol (0.4 cc) is added to a solution, brought to reflux, of paraformaldehyde (0.14 g) in 2% strength aqueous sulphuric acid solution (20 cc), and heating to reflux is continued for 48 hours. The reaction mixture is cooled to +25° C., alkalinized with 4N aqueous sodium hydroxide solution (5 cc) and extracted with ethyl acetate (4×40 cc) and the organic phases are combined, washed with distilled water (100 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a column of silica gel with a slight excess pressure of nitrogen (0.04-0.063 mm, diameter 2 cm, height 15 cm), eluting with a mixture of cyclohexane and ethyl acetate (60:40 by volume) and collecting 20-cc fractions. Fractions 4 and 5 are combined and concentrated to dryness under reduced pressure (2.7 kPa). (3aRS,7aRS)-2-Benzyl-7,7-diphenylperhydro-4-isoindolone (0.23 g) is obtained in the form of white crystals, m.p. 132° C.

reactant | (RS)-6-benzylaminomethyl-7,7-diphenyl-1,4-dioxaspiro[4.5]decane | 0.41 g | C(C1=CC=CC=C1)NCC1C2(OCCO2)CCCC1(C1=CC=CC=C1)C1=CC=CC=C1 | C28H31NO2
reactant | paraformaldehyde | 0.14 g | C=O | CH2O
reactant | sulphuric acid | 20 cc | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 4N, 5 cc | [OH-].[Na+]
reactant | ethanol | 0.4 cc | C(C)O | C2H6O
product | (3aRS,7aRS)-2-Benzyl-7,7-diphenylperhydro-4-isoindolone | 0.23 g | C(C1=CC=CC=C1)N1CC2C(CCC(C2C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H27NO
